* source P1 BUN
Q_Q8         TEMP N03301 N05464 QBC846B 
Q_Q6         N01152 TEMP N35529 QBC846B 
R_R5         N68675 N01152  2k TC=0,0 
R_R6         N04251 N01152  1k TC=0,0 
R_R7         N04200 N01152  1k TC=0,0 
R_R10         0 N04129  1k TC=0,0 
Q_Q3         N04204 N38194 N04129 QBC846B 
Q_Q4         TEMP N37897 N04129 QBC846B 
V_V1         N01152 0 38Vdc
D_D2         0 N06633 BZX84-C5V6 
R_R18         N109591 N05464  1.5k TC=0,0 
X_R21         N109831 N37526 N109830 POT PARAMS: SET=1 VALUE=2k
R_R19         N119671 N109591  220 TC=0,0 
Q_Q1         N04204 N04204 N04251 QBC856B 
Q_Q2         TEMP N04204 N04200 QBC856B 
R_R32         N26191 N22997  150 TC=0,0 
R_R17         N21864 N05464  0.47 TC=0,0 
R_R29         N26106 N05464  150 TC=0,0 
R_R30         N22993 N26106  150 TC=0,0 
D_D1         N21332 0 SMLS14BET 
R_R2         N21156 N21003  680 TC=0,0 
R_R3         N21365 N21156  680 TC=0,0 
R_R4         N21332 N21365  680 TC=0,0 
R_R16         N21868 N21864  0.47 TC=0,0 
R_R15         N03301 N21868  0.47 TC=0,0 
R_R22         N223441 N109831  1k TC=0,0 
R_R31         N22997 N22993  150 TC=0,0 
D_D3         N25728 0 SMLS14BET 
R_R25         N25552 N05464  220 TC=0,0 
R_R26         N25724 N25552  220 TC=0,0 
R_R27         N25842 N25724  220 TC=0,0 
R_R28         N25728 N25842  150 TC=0,0 
R_R33         N26235 N26191  150 TC=0,0 
R_R34         0 N26235  10 TC=0,0 
Q_Q7         N01152 N35529 N03301 QMJD31C 
R_R1         N21003 N01152  680 TC=0,0 
R_R9         N37897 N37526  510 TC=0,0 
R_R8         N06633 N38194  510 TC=0,0 
R_R11         N58949 N06633  2k TC=0,0 
R_R13         N58806 N55818  470 TC=0,0 
Q_Q5         TEMP N55818 0 QBC846B 
R_R14         0 N58806  82 TC=0,0 
R_R12         N55818 N58949  3.3k TC=0,0 
R_R20         N109830 N119671  51 TC=0,0 
R_R23         N628941 N223441  330 TC=0,0 
R_R24         0 N628941  51 TC=0,0 
R_R35         N68852 N68675  2k TC=0,0 
R_R36         N06633 N68852  680 TC=0,0 
.PARAM  set=0.5
